US06462198B1
9H-Xanthene-9-carboxylic acid (5-methoxymethyl-[1,3,4]oxadiazol-2-yl)-amide.
The title compound, white solid, m.p. 233-234° C. and MS: m/e=337.1 (M+H+) was prepared in accordance with the general method of example 48a from (3,5-dimethylpyrazol-1-yl)-(9H-xanthen-9-yl)-methanone and 5-methoxymethyl-[1,3,4]oxadiazol-2-ylamine.

reactant | (3,5-dimethylpyrazol-1-yl)-(9H-xanthen-9-yl)-methanone | CC1=NN(C(=C1)C)C(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H16N2O2
reactant | 5-methoxymethyl-[1,3,4]oxadiazol-2-ylamine | COCC1=NN=C(O1)N | C4H7N3O2
product | 9H-Xanthene-9-carboxylic acid (5-methoxymethyl-[1,3,4]oxadiazol-2-yl)-amide | COCC1=NN=C(O1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C18H15N3O4
